US07470680B2
2-(3-fluoro-2-nitrophenyl)acetic acid.
Dimethyl 2-(3-fluoro-2-nitrophenyl)malonate (2.53 g, 9.33 mmol) was suspended in water (20 mL). Concentrated hydrochloric acid (20 ml, 653 mmol) was added to the mixture. Reaction was heated to reflux and held with stirring for 5 hours. Mixture was cooled to room temperature. Material was extracted twice with diethyl ether and the aqueous phase was discarded. Organics were dried MgSO4, filtered and then concentrated to dryness. Residue was crystallized from 5:1 hexanes:ethyl acetate. Solids were filtered off, washed with hexanes and then dried in vacuo. Title compound was obtained as white solid in 90% yield. 1H NMR (300 MHz, CHLOROFORM-D) δ ppm 3.85 (s, 2 H) 7.08-7.19 (m, 1 H) 7.20-7.28 (m, 1 H) 7.38-7.55 (m, 1 H).

reactant | Dimethyl 2-(3-fluoro-2-nitrophenyl)malonate | 9.33 mmol, 2.53 g | FC=1C(=C(C=CC1)C(C(=O)OC)C(=O)OC)[N+](=O)[O-] | C11H10FNO6
reactant | hydrochloric acid | 653 mmol, 20 ml | Cl | ClH
solvent | water | 20 mL | O | H2O
product | 2-(3-fluoro-2-nitrophenyl)acetic acid | 90% yield | FC=1C(=C(C=CC1)CC(=O)O)[N+](=O)[O-] | C8H6FNO4
